US07259266B2
Step 1. Preparation of ethyl 8-chloro-6-(2,2,2-trifluoroethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 17a, Step 3 (0.500 g, 1.55 mmole) in anhydrous DMF (5.0 mL) under a dry N2 atmosphere was added KI (26 mg, 0.155 mmole), K2CO3 (0.321 g, 2.33 mmole) and 2,2,2-trifluoroethyl iodide (0.458 mL, 4.65 mmole) and the mixture was stirred at room temperature for 1 h, and then at 40° C. for 1 h. Additional K2CO3 (0.647 g, 4.65 mmole) and 2,2,2-trifluoroethyl iodide (0.458 mL, 4.65 mmole) were added to the mixture and the temperature was raised to 50° C. overnight. Additional 2,2,2-trifluoroethyl iodide (0.458 mL (4.65 mmole) was added and the temperature was raised to 85° C. for 18.5 h. The mixture was then poured into sat. NaHCO3 (100 mL) and extracted with EtOAc (2×200 mL). The combined extracts were then washed with brine (2×200 mL), dried over MgSO4, filtered and concentrated in vacuo to give a brown oil. Purification of the crude product by silica chromatography (6:1 hexanes:EtOAc) gave 0.237 g (41% yield) of the product as a light yellow crystalline solid: EIHRMS m/z 404.0246 (M+, C15H11ClF6O4, Calc'd 404.0250).

reactant | ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)O | C13H10ClF3O4
reactant | K2CO3 | 2.33 mmole, 0.321 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroethyl iodide | 4.65 mmole, 0.458 mL | FC(CI)(F)F | C2H2F3I
reactant | K2CO3 | 4.65 mmole, 0.647 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroethyl iodide | 4.65 mmole, 0.458 mL | FC(CI)(F)F | C2H2F3I
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | ethyl 8-chloro-6-(2,2,2-trifluoroethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.237 g, 41% yield | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OCC(F)(F)F | C15H11ClF6O4
